US04021229
Preparation of N-(2,4,5-trichlorophenyl)-methane sulfonamide
A mixture of 2,4,5-trichloroaniline (39.3 g.), methane sulfonyl chloride (22.9 g.) and 100 ml. of xylene were heated together under reflux conditions for 18 hours. The mixture was then allowed to cool, which formed a brown precipitate. The product was worked up in the same manner as set forth in Example 1 to yield 24.0 g. of product, m.p. 144°-145° C.

reactant | 2,4,5-trichloroaniline | 39.3 g | ClC1=C(N)C=C(C(=C1)Cl)Cl | C6H4Cl3N
reactant | methane sulfonyl chloride | 22.9 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | N-(2,4,5-trichlorophenyl)-methane sulfonamide | ClC1=C(C=C(C(=C1)Cl)Cl)NS(=O)(=O)C | C7H6Cl3NO2S
